US08049016B2
Preparation of ethyl 2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)-4-methylthiazole-5-carboxylate
To a 25-mL round bottom flask was added 4-methyl-2-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)thiazole-5-carboxylate (0.10 g, 0.33 mmol), tetrahydrofuran (95 mL), 4-fluorobenzyl bromide (0.08 g, 0.43 mmol) and potassium carbonate (0.10 g, 0.73 mmol) at ambient temperature. The reaction mixture was stirred at ambient temperature for 16 h and refluxed for 3 h. The second portion of 4-fluorobenzyl bromide (0.08 g, 0.43 mmol) was added and stirred at ambient temperature for 17 h. The third portion of 4-fluorobenzyl bromide (0.08 g, 0.43 mmol) and second portion of potassium carbonate (0.10 g, 0.73 mmol) were added at ambient temperature. The mixture was stirred for an additional 3 h at ambient temperature, filtered and washed with tetrahydrofuran. The filtrate was concentrated and the residue was purified by column chromatography to afford the title compound as a white solid (0.08 g, 59% yield): mp 192-193° C.; 1H NMR (300 MHz, CDCl3) δ 8.58-8.55 (m, 1H), 7.38-7.31 (m, 2H), 7.26-7.16 (m, 2H), 7.05-6.95 (m, 3H), 5.09 (s, 2H), 4.32 (q, J=7.2 Hz, 2H), 2.76 (s, 3H), 1.36 (t, J=7.2 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 162.8, 157.1, 157.0, 151.9, 131.0, 131.0, 129.5, 129.4, 128.9, 126.3, 124.2, 122.9, 116.8, 116.1, 115.8, 115.0, 108.4, 61.0, 44.5, 17.5, 14.3; MS (ES+) m/z 412.0 (M+1).

reactant | 4-methyl-2-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)thiazole-5-carboxylate | 0.33 mmol, 0.10 g | CC=1N=C(SC1C(=O)[O-])N1C(NC2=C1C=CC=C2)=O
reactant | 4-fluorobenzyl bromide | 0.43 mmol, 0.08 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 0.73 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl bromide | 0.43 mmol, 0.08 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 4-fluorobenzyl bromide | 0.43 mmol, 0.08 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 0.73 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 95 mL | O1CCCC1 | C4H8O
product | ethyl 2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)-4-methylthiazole-5-carboxylate | 0.08 g, 59% yield | FC1=CC=C(CN2C(N(C3=C2C=CC=C3)C=3SC(=C(N3)C)C(=O)OCC)=O)C=C1 | C21H18FN3O3S
